US05334576
Preparation of methyl 5-(1-acetoxyethyl)-2-(4-isopropyl-4-methyl-5 -oxo-2-imidazolin-2-yl)nicotinate
A mixture of 12 g of methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-(1-bromoethyl)nicotinate, 3.1 g potassium acetate and 30 mL acetic acid is stirred under nitrogen and heated at reflux for 8 hours. The reaction mixture is filtered, and the filtrate is concentrated in vacuo. The residue is triturated with ether, filtered, and concentrated in vacuo to give the desired product as an amber glass.

reactant | methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-(1-bromoethyl)nicotinate | 12 g | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=C(C=N1)C(C)Br)C | C16H20BrN3O3
reactant | potassium acetate | 3.1 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | methyl 5-(1-acetoxyethyl)-2-(4-isopropyl-4-methyl-5 -oxo-2-imidazolin-2-yl)nicotinate | C(C)(=O)OC(C)C=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C18H23N3O5
